US08912221B2
3-(2,2,2-Trifluoro-acetylamino)-oxetane-3-carboxylic acid ((R)-1-{5-[5-chloro-3-fluoro-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-3-fluoro-pyridin-2-yl}-ethyl)-amide
Trifluoroacetic anhydride (15.9 mg, 10.5 μl, 0.0756 mmol) was added slowly to a solution of 3-amino-oxetane-3-carboxylic acid ((R)-1-{5-[5-chloro-3-fluoro-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-3-fluoro-pyridin-2-yl}-ethyl)-amide (34.0 mg, 0.0756 mmol) and triethylamine (8.42 mg, 11.6 μl, 0.0832 mmol) in DCM (2 ml) at 0° C. After the addition, the colorless solution was stirred at 0° C.-5° C. for 45 min and then at room temperature over night. Additional triethylamine (1.53 mg, 2.1 μl, 0.0151 mmol) and trifluoroacetic anhydride (3.17 mg, 2.1 μl, 0.0151 mmol) were added and the mixture was stirred for 2 h. The solution was then diluted with DCM and sat. Na2CO3 solution. The layers were separated and the aqueous layer was extracted with DCM. The combined organic layers were dried with Na2SO4 and evaporated. The remaining colorless gum was purified by chromatography (silica gel; DCM/MeOH 98:2-95:5) and the title compound was obtained as white foam (14 mg, 34%). MS: 546.2 [M+H]+.

reactant | Trifluoroacetic anhydride | 0.0756 mmol, 10.5 μl, 15.9 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-amino-oxetane-3-carboxylic acid ((R)-1-{5-[5-chloro-3-fluoro-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-3-fluoro-pyridin-2-yl}-ethyl)-amide | 0.0756 mmol, 34.0 mg | ClC=1C=C(C(=C(C1)C=1C=C(C(=NC1)[C@@H](C)NC(=O)C1(COC1)N)F)C1=NOC(=N1)C)F | C20H18ClF2N5O3
reactant | triethylamine | 0.0832 mmol, 11.6 μl, 8.42 mg | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.0151 mmol, 2.1 μl, 1.53 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.0151 mmol, 2.1 μl, 3.17 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 3-(2,2,2-Trifluoro-acetylamino)-oxetane-3-carboxylic acid ((R)-1-{5-[5-chloro-3-fluoro-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-3-fluoro-pyridin-2-yl}-ethyl)-amide | ClC=1C=C(C(=C(C1)C=1C=C(C(=NC1)[C@@H](C)NC(=O)C1(COC1)NC(C(F)(F)F)=O)F)C1=NOC(=N1)C)F | C22H17ClF5N5O4
